US07417064B2
[3-(Benzo[b]thiophen-4-yloxy)-hexyl]-benzyl-methyl-amine
Using a method similar to that for [3-(Benzo[b]thiophen-4-yloxy)-5-methyl-hexyl]-benzyl-methyl-amine, 1-(benzyl-methyl-amino)-hexan-3-ol affords the title compound: mass spectrum (ion spray) m/z=354 (M+1); 1H NMR (CDCl3) δ 7.45-7.41 (m, 2H), 7.29-7.20 (m, 7H), 6.81 (d, 1H), 4.58-4.53 (m, 1H), 3.47 (s, 2H), 2.54 (t, 2H), 2.20 (s, 3H), 2.03-1.90 (m, 2H), 1.88-1.60 (m, 2H), 1.53-1.38 (m, 2H), 0.93 (t, 3H).

reactant | [3-(Benzo[b]thiophen-4-yloxy)-5-methyl-hexyl]-benzyl-methyl-amine | S1C2=C(C=C1)C(=CC=C2)OC(CCN(C)CC2=CC=CC=C2)CC(C)C | C23H29NOS
reactant | 1-(benzyl-methyl-amino)-hexan-3-ol | C(C1=CC=CC=C1)N(CCC(CCC)O)C | C14H23NO
product | [3-(Benzo[b]thiophen-4-yloxy)-hexyl]-benzyl-methyl-amine | S1C2=C(C=C1)C(=CC=C2)OC(CCN(C)CC2=CC=CC=C2)CCC | C22H27NOS
